US07943639B2
2-[(4-Bromobenzyl)sulfonyl]-4-piperazin-1-ylthieno[3,2-c]pyridine hydrochloride
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.42 mmol) was treated with 4-bromobenzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. The BOC protecting group was removed using Method R. Yield 0.024 g (12% over three steps). White solid. 1H NMR (300 MHz, DMSO-d6) δ 8.99 (s, 1H), 8.18 (d, J=5.5 Hz, 1H), 8.02 (s, 1H), 7.69 (d, J=5.5 Hz, 1H), 7.53 (d, J=8.5 Hz, 2H), 7.17 (d, J=8.5 Hz, 2H), 4.95 (s, 2H), 3.62-3.68 (m, 4H), 3.27-3.32 (m, 4H); MS (ESI+) for C18H18BrN3O2S2. C1 H m/z 454 (M+H)+. HPLC 90%, RT 1.24 min (YMC ODS AQ, 33×3 mm, 20-50% acetonitrile in 1.5 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.42 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | 4-bromobenzylbromide | 0.59 mmol | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 2-[(4-Bromobenzyl)sulfonyl]-4-piperazin-1-ylthieno[3,2-c]pyridine hydrochloride | Cl.BrC1=CC=C(CS(=O)(=O)C2=CC=3C(=NC=CC3S2)N2CCNCC2)C=C1 | InChI=1S/C18H18BrN3O2S2.ClH/c19-14-3-1-13(2-4-14)12-26(23,24)17-11-15-16(25-17)5-6-21-18(15)22-9-7-20-8-10-22;/h1-6,11,20H,7-10,12H2;1H
